US06127386
170a. 6-Chloro-3-(1-methyl-2-(S)-azetidinylmethoxy)-5-(5-pyrimidinyl)pyridine hydrochloride
To a solution of 6-chloro-3-(1-methyl-2-(S)-azetidinyl-methoxy)-5-(5-pyrimidinyl)pyridine in Et2O was added hydrogen chloride (1.0 M in Et2O) carefully to afford the tittle compound: mp 143-144° C.; 1H NMR (D2O) δ 2.56-2.76 (m, 2H), 3.80 (m, 1H), 4.26 (m, 1H), 4.44-4.58 (m, 2H), 4.79 (m, 1H), 7.70 (d, 1H, J=3.0 Hz), 8.28 (d, 1H, J=3.0 Hz), 9.00 (s, 2H), 9.22 (s, 1H); MS (CI/NH3) m/z 291 (M+H)+. Anal. Calcd for C14H15ClN4O.HCl: C, 51.39; H, 4.93; N, 17.12. Found: C, 51.51; H, 4.80; N, 16.82. [α]25D -16.33 (c 0.74, MeOH).

reactant | 6-chloro-3-(1-methyl-2-(S)-azetidinyl-methoxy)-5-(5-pyrimidinyl)pyridine | ClC1=C(C=C(C=N1)OC[C@H]1N(CC1)C)C=1C=NC=NC1 | C14H15ClN4O
reactant | hydrogen chloride | 1.0 M | Cl | ClH
reactant | MeOH | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
product | 6-Chloro-3-(1-methyl-2-(S)-azetidinylmethoxy)-5-(5-pyrimidinyl)pyridine hydrochloride | Cl.ClC1=C(C=C(C=N1)OC[C@H]1N(CC1)C)C=1C=NC=NC1 | InChI=1S/C14H15ClN4O.ClH/c1-19-3-2-11(19)8-20-12-4-13(14(15)18-7-12)10-5-16-9-17-6-10;/h4-7,9,11H,2-3,8H2,1H3;1H/t11-;/m0./s1
